US06461580B1
To a solution of 60 gms. (0.33 mole) of N-cyclooctyl pyrrolidine in 600 ml. anhydrous methanol, 150 gm. (0.825 mole) of butyl iodide was added. The reaction mixture was refluxed while stirring for four days. Then an additional equivalent of butyl iodide and one equivalent (33 gm., 0.33 mole) of potassium bicarbonate were added and the mixture was stirred at refluxing temperature for an additional 36 hours. The reaction mixture was concentrated at reduced pressure on a rotary evaporator to give an off-white colored solid material. The solids were rinsed several times with chloroform and filtered after each rinse. All the chloroform rinses were combined and concentrated to give a white powder whose NMR data were acceptable for the desired quaternary ammonium iodide salt. The reaction afforded 109 gm. (90% yield) of N-butyl-N-cyclooctylpyrrolidinium iodide. The iodide salt was purified by recrystallization by completely dissolving the iodide salt in acetone, and then precipitating by the addition of ethyl ether to the acetone solution. This procedure gave 98 gms. of white powder with very clean 1H and 13C-NRM spectra.

reactant | N-cyclooctyl pyrrolidine | 0.33 mole | C1(CCCCCCC1)N1CCCC1 | C12H23N
reactant | butyl iodide | 0.825 mole | C(CCC)I | C4H9I
reactant | potassium bicarbonate | 0.33 mole, 33 gm, one equivalent | C([O-])(O)=O.[K+]
solvent | methanol | CO | CH4O
product | N-butyl-N-cyclooctylpyrrolidinium iodide | 90% yield | [I-].C(CCC)[N+]1(CCCC1)C1CCCCCCC1 | InChI=1S/C16H32N.HI/c1-2-3-13-17(14-9-10-15-17)16-11-7-5-4-6-8-12-16;/h16H,2-15H2,1H3;1H/q+1;/p-1
